US08168634B2
7-Bromo-2,3-dihydrobenzo[1,4]oxazine-4-carbothioic acid amide
A mixture of 7-bromo-3,4-dihydro-2H-benzo[1,4]oxazine (7.07 g, 33.00 mmol) and 1,1′-thiocarbonyldiimidazole (8.86 g, 49.70 mmol) in THF (83 mL) was heated to 120° C. under microwave irradiation, in a sealed tube, for 20 minutes, and then cooled to r.t. NH3 (110 mL, 7N solution in MeOH, 770 mmol) was added. The reaction mixture was stirred at r.t. for 16 h, and then concentrated in vacuo. The residue was triturated with 1M aqueous HCl, then Et2O, water and again Et2O, and then dried in vacuo to give the title compound (5.31 g, 59%) as a cream solid. δH (DMSO-d6) 8.66-7.53 (2H, m), 7.39 (1H, d, J 8.7 Hz), 7.15 (1H, d, J 2.3 Hz), 7.07 (1H, dd, J 8.9 and 2.3 Hz), 4.30-4.20 (4H, m). LCMS (ES+) 272.9 and 274.9 (M+H)+, RT 3.12 minutes (Method 7).

reactant | 7-bromo-3,4-dihydro-2H-benzo[1,4]oxazine | 33.00 mmol, 7.07 g | BrC1=CC2=C(NCCO2)C=C1 | C8H8BrNO
reactant | 1,1′-thiocarbonyldiimidazole | 49.70 mmol, 8.86 g | C(=S)(N1C=NC=C1)N1C=NC=C1 | C7H6N4S
reactant | NH3 | 770 mmol, 7N, 110 mL | N | H3N
solvent | THF | 83 mL | C1CCOC1 | C4H8O
product | 7-Bromo-2,3-dihydrobenzo[1,4]oxazine-4-carbothioic acid amide | 5.31 g, 59% | BrC1=CC2=C(N(CCO2)C(N)=S)C=C1 | C9H9BrN2OS
